US08039460B2
Step B: N-{(6S,9R)-6-(2,6-Difluorophenyl)-3-[1-(trifluoromethyl)cyclopropyl]-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-9-yl}-4-(6-methyl-3-oxo-2,3-dihydropyridazin-4-yl)piperidine-1-carboxamide
Triethylamine (55 μL, 0.39 mmol) was added to a solution of the hydrochloride salt of (6S,9R)-6-(2,6-difluorophenyl)-3-[1-(trifluoromethyl)cyclopropyl]-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-9-amine (40 mg, 0.10 mmol) and 4-nitrophenyl chloroformate (22 mg, 0.11 mmol) in tetrahydrofuran (5 mL) at 0° C. After 30 min, 6-methyl-4-piperidin-4-ylpyridazin-3(2H)-one (38 mg, 0.20 mmol), triethylamine (55 μL, 0.39 mmol) and chloroform (5 mL) were added and the mixture was heated to 50° C. After 30 min, the reaction mixture was allowed to cool to ambient temperature. Saturated aqueous sodium carbonate was added and the mixture was extracted with dichloromethane. The organic extracts were washed with saturated aqueous sodium bicarbonate (3×), saturated brine, dried over magnesium sulfate, filtered and concentrated. Purification by silica gel chromatography (100% dichloromethane→90% dichloromethane/methanol) gave the title compound (15 mg). MS 591.2536 (M+1).

reactant | Triethylamine | 0.39 mmol, 55 μL | C(C)N(CC)CC | C6H15N
reactant | (6S,9R)-6-(2,6-difluorophenyl)-3-[1-(trifluoromethyl)cyclopropyl]-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-9-amine | 0.10 mmol, 40 mg | FC1=C(C(=CC=C1)F)[C@@H]1CC[C@H](C=2N(C1)C(=CN2)C2(CC2)C(F)(F)F)N | C18H18F5N3
reactant | 4-nitrophenyl chloroformate | 0.11 mmol, 22 mg | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | 6-methyl-4-piperidin-4-ylpyridazin-3(2H)-one | 0.20 mmol, 38 mg | CC=1C=C(C(NN1)=O)C1CCNCC1 | C10H15N3O
reactant | triethylamine | 0.39 mmol, 55 μL | C(C)N(CC)CC | C6H15N
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | chloroform | 5 mL | C(Cl)(Cl)Cl | CHCl3
product | N-{(6S,9R)-6-(2,6-Difluorophenyl)-3-[1-(trifluoromethyl)cyclopropyl]-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-9-yl}-4-(6-methyl-3-oxo-2,3-dihydropyridazin-4-yl)piperidine-1-carboxamide | 15 mg | FC1=C(C(=CC=C1)F)[C@@H]1CC[C@H](C=2N(C1)C(=CN2)C2(CC2)C(F)(F)F)NC(=O)N2CCC(CC2)C=2C(NN=C(C2)C)=O | C29H31F5N6O2
